Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with PMH of HTN presents following syncopal 
episode this afternoon.

Patient reports several days of URI symptoms including 
congestion, rhinitis, cough, and subjective fevers. He felt 
poorly from ___ through today, but reports fair appetite, no 
HA, no N/V/D, and no dysuria. He went to the ___ store today 
when he suddenly passed out. He does not recall the events of 
passing out  and only remembers waking up in the ambulance. He 
does deny CP, SOB, or palpitations preceeding syncope. No 
incontinence or tongue biting. He denies confusion on waking, 
but was reportedly AAOx2 on awakening. 

In the ED, initial vitals were T 96.4, HR 88, BP 152/102, RR 16, 
O2 97%RA. Initial exam was notable for alert man oriented only 
to self and place (not year). He had no apparent neurologic 
deficits. Initial labs were notable for WBC 8.7, HCT 40.8, and 
Cr 1.8. Trop negative x1 and INR was 1.1. CT of head and C-spine 
showed no acute process. CXR showed moderate to severe 
cardiomegaly, but no other process. EKG showed no acute ischemic 
changes, but was concerning for Afib. He was given 1LNS and 
admitted to medicine for further management. VS prior to 
transfer were 98.1, HR 89, BP 144/76, RR 20, O2 98%RA.

Currently, patient is without complaint. He does report some DOE 
over the last 6 months.
  
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  

 
Past Medical History:
- Degenerative joint disease
- HTN
- ?Afib - Identified on insurance physical. PCP does not believe 
he has Afib, but instead has WAP.
- Hypercholesterolemia
- Insomnia
- Anxiety
- Seasonal allergies
- Erectile dysfunction
- Cataracts
- Bladder carcinoma
 
Social History:
___
Family History:
Father with PUD. No known CAD or SCD.

 
Physical Exam:
ADMISSION:
VS: 98.4 132/82 87 16 100%RA
General: Well appearing man in NAD. Pleasant
HEENT: Dry MM   
Neck: JVD not elevated
CV:  Irregularly irregular rhythm. Distant heart sounds, no 
murmur appreciated
Lungs: Good air movment, nonlabored, CTAB
Abdomen: Soft, NT, ND. NABS. No HSM
GU: Deferred
Ext:  No edema
Neuro: AAOx3, appropriate, pleasant. CNIII-XII intact. Moving 
all extremities equally
Skin: No rashes or lesions noted

DISCHARGE:
VITALS: 98.4 97.9 132/82 80 16 96%RA
I/O: 1180/200++
GENERAL: Appears in no acute distress. Alert and interactive. 
Well nourished appearing.
HEENT: Normocephalic, atraumatic. EOMI. Nares clear. Dry mucous 
membranes moist without plaques or exudates. Good dentition.
NECK: supple without lymphadenopathy. JVP not elevated. Thyroid 
barely palpable.
___: Distant heart sounds. Irregular rate and rhythm, without 
murmurs, rubs or gallops. S1 and S2 normal.
RESP: Clear to auscultation bilaterally without adventitious 
sounds. No wheezing, rhonchi or crackles. Stable inspiratory 
effort without labored breathing.
ABD: soft, non-tender, non-distended, with normoactive bowel 
sounds. No palpable masses or peritoneal signs. No significant 
abdominal scars.
EXTR: no cyanosis, clubbing or edema, 2+ peripheral pulses
NEURO: Alert and oriented x 3. Strength ___ bilaterally, 
sensation grossly intact. Gait deferred.

 
Pertinent Results:
ADMISSION LABS:

___ 02:50PM BLOOD WBC-8.7 RBC-4.23* Hgb-13.8* Hct-40.6 
MCV-96 MCH-32.7* MCHC-34.0 RDW-13.3 Plt ___
___ 02:50PM BLOOD Neuts-76.8* Lymphs-14.6* Monos-7.8 
Eos-0.3 Baso-0.4
___ 02:50PM BLOOD ___ PTT-32.2 ___
___ 02:50PM BLOOD Glucose-172* UreaN-13 Creat-1.8* Na-138 
K-4.0 Cl-101 HCO3-25 AnGap-16
___ 02:50PM BLOOD cTropnT-<0.01
___ 09:20PM BLOOD cTropnT-<0.01
___ 02:50PM BLOOD Calcium-9.5 Phos-3.7 Mg-1.9
___ 09:20PM BLOOD TSH-1.3

DISCHARGE LABS:

___ 07:15AM BLOOD WBC-6.4 RBC-4.01* Hgb-13.1* Hct-39.0* 
MCV-97 MCH-32.6* MCHC-33.5 RDW-13.6 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-138* UreaN-12 Creat-1.1 Na-139 
K-3.7 Cl-104 HCO3-21* AnGap-18

MICROBIOLOGY:

IMAGING:
___ 3:___-SPINE W/O CONTRAST
There is no acute fracture or malalignment.  Prevertebral soft 
tissues are unremarkable.  Multilevel degenerative changes are 
seen with findings compatible with diffuse idiopathic skeletal 
hyperostosis. There is no critical canal stenosis with bilateral 
facet arthropathy resulting in multilevel mild to moderate 
neural foraminal narrowing.  The soft tissues of neck including 
thyroid gland are unremarkable.  Imaged lung apices demonstrate 
mild paraseptal emphysema. 

___ 3:13 CT HEAD W/O CONTRAST
There is no acute intracranial hemorrhage, edema, mass effect or 

major vascular territorial infarction. There is no shift of the 
midline structures. Ventricles and sulci are enlarged compatible 
with age related atrophy. Periventricular and subcortical white 
matter hypodensities suggest chronic small-vessel ischemic 
disease. There is no fracture. Imaged paranasal sinuses and 
mastoid air cells reveal minimal bilateral anterior ethmoid and 
right maxillary sinus mucosal thickening. Small left frontal 
sinus osteoma is noted. 

___ 3:18 ___ CHEST (SINGLE VIEW)
Moderate to severe cardiomegaly is present.  The aorta is 
unfolded.  There is mild pulmonary vascular fullness which may 
be due to supine positioning and low lung volumes.  No overt 
pulmonary edema is seen.  There is no focal consolidation or 
pleural effusion.  No pneumothorax is identified.  No acute 
osseous abnormalities are demonstrated. 
 
___ TTE
Mild symmetric left ventricular hypertrophy with preserved 
regional and global biventricular systolic function. Dilated 
ascending aorta. No structural cardiac cause of syncope 
identified.

 
Brief Hospital Course:
___ male status post a syncopal episode with loss of 
consciousness while in ___ store earlier this afternoon and 
sruck his head. 
   
# Syncope: Given the history of recent illness several days 
prior to this episode, coupled with poor PO intake it is likely 
his syncope was due to hypovolemia (orthostatic syncope). The 
possibility of hypovolemia was supported by his elevated 
creatinine. Other considerations would be a cardiac etiology 
such as Arrhythmia. His EKG was suggestive of Atrial 
fibrillation, although the patient denied any history of such. 
Atrial fibrillation is further supported by history of dyspnea 
on exertion. A vasovagal episode in the setting of not eating is 
also possible. This was unlikely since there was no specific 
trigger prior to his syncopizing. ACS was possible although 
unlikely given lack of evidence on EKG and history. He was 
maintained on IV hydration, telemetry monitoring and got a TTE 
that showed  mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Dilated ascending aorta. No structural cardiac cause of syncope 
identified.

# Cough: He reported some rhinitis, subjective fevers and 
fatigue, all of which suggested viral illnes. Given that he is 
mproving and looks clinical we held off on antibiotics at this 
point.

___: He had elevated creat which could be explained by his 
recent illness and poor PO intake. The presentation was very 
suggestive of a pre-renal ___. However, we did not have his 
baseline renal function making it difficult to assess if this 
was an acute or chronic insult. Perhaps, he has some chronic 
intrinsic renal dysfunction. hence he was maintained on IV 
hydration with improvement in creatinine.

# HTN: Continue Amlodipine and Losartan once doses have been 
verified with the PCP.

# Insomnia: Held ambien given fall risk and gave trazodone.

TRANSITION OF CARE:
Patient admitted for syncope. He was not orthostatic on 
admission, and had was ruled out for MI. No events on telemetry 
overnight, and TTE showed LVH, but no other structural heart 
disease. There was concern for atrial fibrillation on EKG, which 
may warrant further management. Did start the patient on full 
dose ASA for primary prevention of CAD and possible stroke 
prevention given concern for AFib. Risks and benefits of 
anticoagulation should be discussed with the patient.
1. Could consider Holter monitoring for syncope
2. The patient has several risk factors for cardiac disease 
therefore stress testing may be warranted if none has been done 
recently.
3. The patient consumes a significant amount of alcohol. he did 
not show any signs of withdrawal during this admission, but 
alcohol cessation and monitoring would recommended.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Amlodipine 10 mg PO DAILY 
4. Bromphenex DM *NF* (brompheniramine-pseudoeph-DM) ___ 
mg/5 mL Oral unknown 
5. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Pravastatin 20 mg PO DAILY 
4. Bromphenex DM *NF* (brompheniramine-pseudoeph-DM) ___ 
mg/5 mL Oral unknown 
5. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
6. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
1. Syncope
2. Acute kidney injury
3. Hypovolemia
4. Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the Internal Medicine service at ___ 
___ on ___ 7 regarding management 
of your syncope. Based on the history given and the testing done 
we do not think there was a dangerous cause to your sycnope, but 
it is very important that you followup with your PCP. Most 
likely, you syncope may have been caused by dehydration, or 
reflexive syncope from coughing due to your recent cold.  We 
managed you with fluid hydration overnight with good response in 
your blood pressure. EKG testing suggests that you may have 
atrial fibrillation. We also did an ultrasound of your heart, 
which showed enlargement of the muscle, likely due to 
longstanding high blood pressure.  We recommend further 
discussion and follow-up with your primary provider concerning 
the possible atrial fibrilation and following up with a 
cardiologist. We started you on aspirin to help protect your 
heart.
 
It is important to take all of your medications as prescribed. 
In addition, please make every attempt to attend your follow-up 
appointments, as scheduled. 
 
Please call your doctor or go to the emergency department if:
* You experience new chest pain, pressure, squeezing or 
tightness.
* You develop new or worsening cough, shortness of breath, or 
wheezing.
* You are vomiting and cannot keep down fluids, or your 
medications.
* If you are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include: dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit, or have a 
bowel movement.
* You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
* Your pain is not improving within 12 hours or is not under 
control within 24 hours.
* Your pain worsens or changes location.
* You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
* You develop any other concerning symptoms.

 
Followup Instructions:
___